US05912340
5-(4-Phthalimidobut-1-yn-1-yl)-2'-deoxvuridine
5-Iodo-2'-deoxyuridine (354 mg, 1 mmol) was dissolved in 10 mL of dimethylformamide. Cuprous iodide (76 mg, 0.4 mmol), tetrakis (triphenylphosphine) palladium (0) (230 mg, 0.2 mmol), and triethylamine (200 mg, 2.0 mmol) were added. 4-Phthalimidobut-1-yn (300 mg, 1.5 mmol) was added all at once and the reaction kept at 60° C. for three hours. The clear yellow reaction was then evaporated and methylene chloride was added. Scratching of the flask induced crystallization of nearly all of the product which was filtered and recrystallized from 95% ethanol to give 335 mg (78%) of title compound as fine, feathery needles.

reactant | 5-Iodo-2'-deoxyuridine | 1 mmol, 354 mg | IC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11IN2O5
reactant | triethylamine | 2.0 mmol, 200 mg | C(C)N(CC)CC | C6H15N
reactant | 4-Phthalimidobut-1-yn | 1.5 mmol, 300 mg | C1(C=2C(C(N1CCC#C)=O)=CC=CC2)=O | C12H9NO2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.2 mmol, 230 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(4-Phthalimidobut-1-yn-1-yl)-2'-deoxvuridine | 335 mg, 78% | C1(C=2C(C(N1CCC#CC=1C(NC(N([C@H]3C[C@H](O)[C@@H](CO)O3)C1)=O)=O)=O)=CC=CC2)=O | C21H19N3O7
